US08303944B2
A mixture of ammonium acetate (844 mg; 10.97 mmol) and (S)-(9H-fluoren-9-yl)methyl 2-(2-(4-bromophenyl)-2-oxoethylcarbamoyl)-2-methylpyrrolidine-1-carboxylate (intermediate LS31; 1.00 g; 1.83 mmol) was heated to 140° C. in 25 mL xylene for 2.5 h at which time the reaction mixture was concentrated and loaded with dichloromethane onto a Biotage 40 samplet. Purification via Biotage (5 to 60% ethyl acetate/hexane over 100 mL with 400 mL hold time) provided (S)-(9H-fluoren-9-yl)methyl 2-(5-(4-bromophenyl)-1H-imidazol-2-yl)-2-methylpyrrolidine-1-carboxylate (intermediate LS32; 469 mg; 49%) as an amber liquid. LC (Cond'n 12): RT=3.09 min; MS: Anal. Calcd. for [M+H]+ C29H26BrN3O2: 528.1. found 528.5.

reactant | ammonium acetate | 10.97 mmol, 844 mg | C(C)(=O)[O-].[NH4+]
reactant | (S)-(9H-fluoren-9-yl)methyl 2-(2-(4-bromophenyl)-2-oxoethylcarbamoyl)-2-methylpyrrolidine-1-carboxylate | 1.83 mmol, 1.00 g | BrC1=CC=C(C=C1)C(CNC(=O)[C@]1(N(CCC1)C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)C)=O | C29H27BrN2O4
solvent | xylene | 25 mL | C=1(C(=CC=CC1)C)C | C8H10
product | (S)-(9H-fluoren-9-yl)methyl 2-(5-(4-bromophenyl)-1H-imidazol-2-yl)-2-methylpyrrolidine-1-carboxylate | 469 mg, 49% | BrC1=CC=C(C=C1)C1=CN=C(N1)[C@]1(N(CCC1)C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)C | C29H26BrN3O2
